US04376204
A. N-(2-pyridyl)chloroacetamide
To a solution of 9.42 g. (0.1 mole) of 2-aminopyridine in 50 ml. of methylene chloride was added dropwise 4.0 ml. (0.05 mole) of chloroacetyl chloride in 20 ml. of the same solvent, keeping the reaction temperature at -20° to -10° C. for one hour. After stirring at room temperature for 10 hours, 50 ml. of water was added and the organic layer separated. The organic solution was washed with water and a brine solution and was dried over magnesium sulfate. Removal of the solvent in vacuo gave 6.64 g. (78%), m.p. 114°-117° C., of the desired product.

reactant | 2-aminopyridine | 0.1 mole | NC1=NC=CC=C1 | C5H6N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroacetyl chloride | 0.05 mole | ClCC(=O)Cl | C2H2Cl2O
solvent | water | O | H2O
product | N-(2-pyridyl)chloroacetamide | N1=C(C=CC=C1)NC(CCl)=O | C7H7ClN2O
